* source VCF
V_V4         VCC 0 5Vdc
R_R15         N06499 N06351  1meg TC=0,0 
R_R18         0 OUT  10meg TC=0,0 
R_R13         N06339 N06345  10k TC=0,0 
C_C7         IN N06499  4.7u  TC=0,0 
R_R17         VCC N06665  100k TC=0,0 
X_R11         N06157 N06157 N06231 POT PARAMS: SET=1 VALUE=10K
V_V5         IN 0 DC 1.5Vdc AC 1.5Vac 
C_C6         N06351 N06219  10n  TC=0,0 
C_C5         N06219 N06231  10n  TC=0,0 
Q_Q2         N06219 N06345 0 BC547B 
C_C8         N06157 OUT  4.7u  TC=0,0 
R_R14         N06351 N06157  470k TC=0,0 
R_R16         0 N06499  100k TC=0,0 
R_R19         0 N06665  100k TC=0,0 
X_U3         N06665 N06351 VCC 0 N06157 MCP6001
X_R12         0 N06339 VCC POT PARAMS: SET=1 VALUE=10K
R_R20         DAC_OUT N06345  10k TC=0,0 
V_V6         DAC_OUT 0 {k}
.PARAM  k=0
